US06482818B2
N-(Hydroxymethyl)-acetamide (13.4 g, 0.15 mol) and thiolacetic acid (14.3 g, 0.188 mol) were heated for 3 days at 40° C. The resulting mixture was chromatographed on silica gel (63-200 um, 700 g) with toluene-ethyl acetate 4:1 and 1:1 to give pure crystalline acetamidomethyl thiolacetate (14.2 g, 64%), m.p. 93-94° C.

reactant | N-(Hydroxymethyl)-acetamide | 0.15 mol, 13.4 g | OCNC(C)=O | C3H7NO2
reactant | thiolacetic acid | 0.188 mol, 14.3 g | S1C(=CC=C1)CC(=O)O | C6H6O2S
product | acetamidomethyl thiolacetate | 14.2 g, 64% | S1C(=CC=C1)CC(=O)OCNC(C)=O | C9H11NO3S
